US07459448B2
3-(9-Chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-benzoic acid (I-62-a)
In a manner similar to method I, 8-chloro-4-((dimethylamino)methylene)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) and 3-guanidino-benzoic acid were converted to I-62-a (72%): MS m/z═381 (M+H).

reactant | 8-chloro-4-((dimethylamino)methylene)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
reactant | 3-guanidino-benzoic acid | N(C(=N)N)C=1C=C(C(=O)O)C=CC1 | C8H9N3O2
product | 3-(9-Chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-benzoic acid | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC=3C=C(C(=O)O)C=CC3)=O)C1 | C19H13ClN4O3
